US04753941
The procedure is similar to that described in Example 24, but starting with 2-amino-7-chloro-1,8-naphthyridine (17.95 g), 3,4-dichlorophenol (65.2 g) and potassium hydroxide pellets (85% pure; 13.2 g), heating to 125° C. for 22 hours. On recrystallization in acetonitrile (1500 cc) of the crude product obtained, 2-amino-7-(3,4-dichlorophenoxy)-1,8-naphthyridine (18 g), m.p. 206° C., is obtained.

reactant | 2-amino-7-chloro-1,8-naphthyridine | 17.95 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 3,4-dichlorophenol | 65.2 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | potassium hydroxide | [OH-].[K+]
product | 2-amino-7-(3,4-dichlorophenoxy)-1,8-naphthyridine | 18 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC(=C(C=C1)Cl)Cl | C14H9Cl2N3O
